US05962685
To 20 ml dichloromethane solution of 3.4 g 1,1,1-tris(acetoxy)-1,1-dihydro-1,2-benziodoxole-3(1H)-one, was added 20 ml dichloromethane solution of 1.3 g N-(2-hydroxycyclohexyl)-3-benzyloxypicolinic amide at room temperature. After stirring the solution for 2 hours, the solution reacted was poured into 80 ml diehtyl ether, and 2N-aqueous solution of sodium hydroxide and ice were added to the resulting solution. The organic layer obtained was washed with aqueous solution of sodium hydrogencarbonate, water and saturated saline solution in turn and was then dried by using anhydrous magnesium sulfate. The solvent used was removed by distillation under reduced pressure, affording oily substance, N-(2-oxocyclohexyl)-3-benzyloxypicolinic amide in an amount of 1.18 g.

reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | N-(2-hydroxycyclohexyl)-3-benzyloxypicolinic amide | 1.3 g | OC1C(CCCC1)NC(C1=NC=CC=C1OCC1=CC=CC=C1)=O | C19H22N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diehtyl ether | 80 ml | C(C)OCC | C4H10O
product | N-(2-oxocyclohexyl)-3-benzyloxypicolinic amide | O=C1C(CCCC1)NC(C1=NC=CC=C1OCC1=CC=CC=C1)=O | C19H20N2O3
